US09024027B2
Step 1: Preparation of tert-butyl 2-(6-methoxy-2,3-dioxoindolin-1-yl)acetate (62)
To a solution of 6-methoxyindoline-2,3-dione (350 mg, 1.976 mmol) in acetonitrile (10 ml), K2CO3 (328 mg, 2.371 mmol) and tert-butyl 2-bromoacetate (350 μl, 2.371 mmol) were added, and the mixture was reacted at room temperature overnight. The insoluble inorganic salts were filtered off and the solvent was evaporated obtaining the crude title compound (550 mg, 1.888 mmol, 96% yield). MS/ESI+ 292.1 [MH]+. The crude was used in the next step without further purification.

reactant | 6-methoxyindoline-2,3-dione | 1.976 mmol, 350 mg | COC1=CC=C2C(C(NC2=C1)=O)=O | C9H7NO3
reactant | K2CO3 | 2.371 mmol, 328 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | tert-butyl 2-bromoacetate | 2.371 mmol, 350 μl | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | tert-butyl 2-(6-methoxy-2,3-dioxoindolin-1-yl)acetate | 1.888 mmol, 550 mg, 96% yield | COC1=CC=C2C(C(N(C2=C1)CC(=O)OC(C)(C)C)=O)=O | C15H17NO5
